US07342115B2
A mixture of 6-(2,6-diethyl-phenyl)-4-(3-methoxy-prop-1-ynyl)-2-methyl-nicotinic acid ethyl ester (160 mg, 0.44 mmol) and 10% Pd/C (40 mg, 25 wt %) in MeOH (20 mL) is hydrogenated for 18 hours at 55 psi (Parr shaker). After filtration through celite, the filtrate is concentrated in vacuo and the residue purified by flash chromatography to give 6-(2,6-diethyl)-4-(3-methoxypropyl)-2-methyl-nicotinic acid ethyl ester and 6-(2,6-diethyl-phenyl)-2-methyl-4-propyl-nicotinic acid ethyl ester. 6-(2,6-Diethyl)-4-(3-methoxypropyl)-2-methyl-nicotinic acid ethyl ester: 1H NMR (CDCl3) 7.26 (t, 1H), 7.12 (d, 2H), 7.00 (s, 1H), 4.43 (q, 2H), 3.37 (t, 2H), 3.30 (s, 3H), 2.72 (t, 2H), 2.59 (s, 3H), 2.38-2.25 (m, 4H), 1.92-1.83 (m, 2H), 1.41 (t, 3H), 1.04 (t, 6H). 6-(2,6-Diethyl-phenyl)-2-methyl-4-propyl-nicotinic acid ethyl ester: 1H NMR (CDCl3) 7.25 (t, 1H), 7.18 (d, 2H), 6.99 (s, 1H), 4.43 (q, 2H), 2.62 (q, 2H), 2.60 (s, 3H), 2.38-2.27 (m, 4H), 1.64 (q, 2H), 1.42 (t, 3H), 1.13 (t, 6H), 0.95 (t, 3H).

reactant | 6-(2,6-diethyl-phenyl)-4-(3-methoxy-prop-1-ynyl)-2-methyl-nicotinic acid ethyl ester | 0.44 mmol, 160 mg | C(C)OC(C1=C(N=C(C=C1C#CCOC)C1=C(C=CC=C1CC)CC)C)=O | C23H27NO3
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 6-(2,6-diethyl-phenyl)-2-methyl-4-propyl-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1CCC)C1=C(C=CC=C1CC)CC)C)=O | C22H29NO2
